US07871999B2
15 mg (0.24 mmol) of copper and 68 mg (0.69 mmol) of copper(I) chloride were added to a solution of 1.0 g (4.1 mmol) of 2,5-dibromothiazole and 2.2 ml (24.7 mmol) of N-methylethylenediamine in isopropanol (2.3 ml). The mixture was then heated to 70° C. for 1 h. After cooling to RT, filtration through silica gel was carried out and the filtrate was evaporated under a vacuum. 348 mg (1.5 mmol, 36%) of N1-(5-bromothiazol-2-yl)-N1-methylethane-1,2-diamine were obtained by CC (DCE/EtOH/conc. aq. NH4—OH soln. 5:1:0.06) with the residue.

reactant | 2,5-dibromothiazole | 4.1 mmol, 1.0 g | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | N-methylethylenediamine | 24.7 mmol, 2.2 ml | CNCCN | C3H10N2
reactant | DCE EtOH | ClCCCl.CCO
solvent | isopropanol | 2.3 ml | C(C)(C)O | C3H8O
catalyst | copper | 0.24 mmol, 15 mg | [Cu] | Cu
catalyst | copper(I) chloride | 0.69 mmol, 68 mg | [Cu]Cl
product | N1-(5-bromothiazol-2-yl)-N1-methylethane-1,2-diamine | 1.5 mmol, 348 mg, 36% | BrC1=CN=C(S1)N(CCN)C | C6H10BrN3S
